US04743291
In a manner similar to Step B of Example 9, the reaction of 9.0 g (0.036 mole) of 5-chlorosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran with 60 mL of an aqueous 29% ammonium hydroxide solution in 70 mL of tetrahydrofuran produced 8.0 g of 5-aminosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran as a solid (mp 157°-160° C.).

reactant | 5-chlorosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran | 0.036 mole, 9.0 g | ClS(=O)(=O)C=1C=CC2=C(CC(O2)(C)C)C1 | C10H11ClO3S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 5-aminosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran | 8.0 g | NS(=O)(=O)C=1C=CC2=C(CC(O2)(C)C)C1 | C10H13NO3S
